US07632840B2
The 1-isopropyl-4-(methylamino)piperidine-4-carboxamide used as starting material was prepared as follows: 1-benzyl-4-(methylamino)piperidine-4-carboxamide (J Med Chem., 1998, 41(25), 5084) may be deprotected by hydrogenation using an analogous method to that described for the equivalent step in Example 74 to give 4-(methylamino)piperidine-4-carboxamide; 1H NMR Spectrum: 1.35 (m, 2H); 1.68 (m, 2H); 1.93 (brs, 1H); 2.06 (s, 3H), 2.59 (m, 2H); 2.71 (m, 2H); 6.81 (s, 1H); 7.14 (s, 1H).

reactant | 1-isopropyl-4-(methylamino)piperidine-4-carboxamide | C(C)(C)N1CCC(CC1)(C(=O)N)NC | C10H21N3O
reactant | 1-benzyl-4-(methylamino)piperidine-4-carboxamide | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)N)NC | C14H21N3O
product | 4-(methylamino)piperidine-4-carboxamide | CNC1(CCNCC1)C(=O)N | C7H15N3O
